US04983627
Preparation of 3-Cyclohexylprop-1-yn-3-one and Related Compands
In like manner, but replacing the 3-cyclohexylprop-1-yn-3-ol with oct-1-yn-3-ol, oct-1-yn-3-one was prepared. C. Similarly, but starting with other appropriate 3-hydroxy-1-alkynes, prepared as shown above, the following 3-oxo-1-alkynes are prepared:

reactant | oct-1-yn-3-ol | C#CC(CCCCC)O | C8H14O
reactant | oct-1-yn-3-one | C#CC(CCCCC)=O | C8H12O
product | 3-Cyclohexylprop-1-yn-3-one | C1(CCCCC1)C(C#C)=O | C9H12O
